US08183272B2
(3c) 1-(2-Bromo-5-fluoro-3-methoxy phenyl)ethanone
1-(2-Amino-5-fluoro-3-methoxy phenyl)ethanone (2.66 g, 14.2 mmol), which had been obtained in Reference example 3(3b), was suspended in 10% aqueous hydrogen bromide solution (22 mL). Then, a 9% aqueous sodium nitrite solution (11 mL, 14.4 mmol) was slowly added dropwise thereto at 0° C. After stirring the mixture solution for 1 hour at 0° C., a solution in which copper bromide (I) (2.24 g, 15.7 mmol) is dissolved in 47% aqueous hydrogen bromide solution (15 mL) was added thereto, and the mixture was refluxed with heating at 110° C. for 2 hours. The reaction solution was cooled to room temperature and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel chromatography (n-hexane/ethyl acetate=4/1) to give the title compound as a pale yellow solid (2.15 g, yield 61%).

reactant | 1-(2-Amino-5-fluoro-3-methoxy phenyl)ethanone | 14.2 mmol, 2.66 g | NC1=C(C=C(C=C1OC)F)C(C)=O | C9H10FNO2
reactant | sodium nitrite | 14.4 mmol, 11 mL | N(=O)[O-].[Na+]
reactant | hydrogen bromide | 22 mL | Br | BrH
reactant | hydrogen bromide | 15 mL | Br | BrH
catalyst | copper bromide | 15.7 mmol, 2.24 g | [Cu](Br)Br
product | 1-(2-Bromo-5-fluoro-3-methoxy phenyl)ethanone | 2.15 g, yield 61% | BrC1=C(C=C(C=C1OC)F)C(C)=O | C9H8BrFO2
